US06730668B2
Preparation of 2-[2-(4-fluorophenyl)acetyl]-4-methoxy-pyrazolidine-1-carboxylic acid benzyl ester (44):
2-[2-(4-Fluorophenyl)acetyl]-4-hydroxy-pyrazolidine-1-carboxylic acid benzyl ester, 28, (2.55 g, 7.91 mmol) is dissolved in dimethylformamide (40 mL). Methyl iodide (1.97 mL, 31.6 mmol) is added followed by silver oxide (3.67 g, 15.8 mmol). The flask is cover with foil and stirred overnight in the absence of light. The reaction mixture is poured into ether (150 mL). The mixture is stirred vigorously at room temperature and filtered through a pad of Celite. The filtrate is washed with water (2×150 mL) and brine (150 mL), dried over sodium sulfate, filtered and concentrated in vacuo to afford 2.58 g (97% yield) of the desired product as a yellow, clear oil.

reactant | 2-[2-(4-Fluorophenyl)acetyl]-4-hydroxy-pyrazolidine-1-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)N1N(CC(C1)O)C(CC1=CC=C(C=C1)F)=O | C19H19FN2O4
reactant | Methyl iodide | 31.6 mmol, 1.97 mL | CI | CH3I
reactant | ether | 150 mL | CCOCC | C4H10O
solvent | dimethylformamide | 40 mL | CN(C=O)C | C3H7NO
catalyst | silver oxide | 15.8 mmol, 3.67 g | [Ag]=O
product | 2-[2-(4-fluorophenyl)acetyl]-4-methoxy-pyrazolidine-1-carboxylic acid benzyl ester | 2.58 g, 97% yield | C(C1=CC=CC=C1)OC(=O)N1N(CC(C1)OC)C(CC1=CC=C(C=C1)F)=O | C20H21FN2O4
